US04812570
To a mixture of 6-methyl-2-pyridineethanol (97.2 g), p-fluorobenzonitrile (85.8 g) and dry tetrahydrofuran (600 ml) was added 60% sodium hydride in oil (29.0 g) in small portions with ice-cooling and stirring and the mixture was further stirred for 2 hours. The reaction mixture was poured in ice-water and extracted with ethyl ether. The ethyl ether layer was washed with water, dried (MgSO4) and concentrated, and the residue was crystallized from hexane to give 4-[2-(6-methyl-2-pyridyl)ethoxy]benzonitrile. Yield: 85.9 g (50.1%); m.p.: 66°-67° C.

reactant | 6-methyl-2-pyridineethanol | 97.2 g | CC1=CC=CC(=N1)CCO | C8H11NO
reactant | p-fluorobenzonitrile | 85.8 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 4-[2-(6-methyl-2-pyridyl)ethoxy]benzonitrile | CC1=CC=CC(=N1)CCOC1=CC=C(C#N)C=C1 | C15H14N2O
